US04451463
A solution of 2-(3-benzyloxypropyl)-4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimidine (3.7 g.) in EtOH (75 ml.) containing concentrated aqueous HCl (1 ml.) was hydrogenated over 5% w/w palladium on carbon (1 g.). The filtrate was evaporated and the residue was partitioned between dilute aqueous NaOH and EtOAc. The EtOAc solution was washed with brine, dried and evaporated and the residue was crystallised from EtOAc to give 2-(3-hydroxypropyl)-4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimidine (0.2 g.), m.p. 136°-138°.

reactant | 2-(3-benzyloxypropyl)-4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimidine | 3.7 g | C(C1=CC=CC=C1)OCCCC1=NC=CC(=N1)NC(=NCC(F)(F)F)N | C17H20F3N5O
reactant | HCl | 1 ml | Cl | ClH
solvent | EtOH | 75 ml | CCO | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2-(3-hydroxypropyl)-4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimidine | 0.2 g | OCCCC1=NC=CC(=N1)NC(=NCC(F)(F)F)N | C10H14F3N5O
